data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(C(=O)O)NC(=O)CNC(=O)C(CC1=CC=CC=C1)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C(=O)O)NC(=O)CNC(=O)C(CC1=CC=CC=C1)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
[H:20][OH2+:21].CC([NH2:10])(O)O>>[H:20][NH2+:10]C(C)(O)O.[OH2:21] 10=20;20,21=21
[B-:10](C1=C(N=CC=C1)Cl)(O)(O)[O:11]C(C)C.CC(C)[O-].[OH-]>>[B:10](C1=C(N=CC=C1)Cl)(O)O.CC(C)[O-:11].CC(C)[O-].[OH-] 10,11=11
CN(C)[CH:20]=[O:21].COC1=CC=C(C=C1)COCCCC#[C-:10].[Li+].CCCC.CN(C)P(=O)(N(C)C)N(C)C>>CN(C)[CH:20]([C:10]#CCCCOCC1=CC=C(C=C1)OC)[O-:21].[Li+].CCCC.CN(C)P(=O)(N(C)C)N(C)C 10=20;20,21=21
CCO[C:20](=[OH+:21])CC(=O)C.[OH2:10]>>CCO[C:20](CC(=O)C)([OH2+:10])[OH:21] 10=20;20,21=21
[H:20][O:21]C.CC[O-:10]>>[H:20][O:10]CC.C[O-:21] 10=20;20,21=21
CC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COCC(C)C)O>>CC1=CC=C[N:21]=C1.CC(C)COCC1C(C[CH:20]=[O+:10]1)O 10=20;20,21=21
C[CH:20]([C:21](Br)(Br)Br)[O-:10]>>C[CH:20]=[O:10].[C-:21](Br)(Br)Br 10=20;20,21=21
[H:20][C:21]1(C2=C(C=CC=C2)C=C[C+:22]1Br)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C1)[C:21](=[C:22](C=C2)Br)S(=O)(=O)O 10=20;20,21=21,22
CCO[C:20](=[O:21])[C:10](C)(C)[C:11](C(C)C)([O-:12])OC>>CCO[C:20](=[C:10](C)C)[O-:21].CC(C)[C:11](=[O:12])OC 10,11=10,20;20,21=21;12=11
C[P:10](C)(C)(O)[Cl:11]>>C[P+:10](C)(C)O.[Cl-:11] 10,11=11
[H:20][C:21]1(C(C([O+:23]=[C:22]1C2=CC(=C(C=C2)OC)OC)(C3=CC(=C(C=C3)OC)OC)O)C)C.[OH2:10].CO.[Cl-]>>[H:20][OH2+:10].CC1[C:21](=[C:22]([O:23]C1(C2=CC(=C(C=C2)OC)OC)O)C3=CC(=C(C=C3)OC)OC)C.CO.[Cl-] 10=20;22,23=23;20,21=21,22
[Li:20]N(CC)CC.C1CCCC2C([O:10]2)CC1>>[Li-:20](N(CC)CC)[O+:10]1C2C1CCCCCC2 10=20,
[H:20][C:21]1([C:22](=[OH+:23])CCC2(C1(CCCC2=O)O)C)C.C1=CC=C(C=C1)CC(C(=O)[O-:10])[NH3+].CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)O)N>>[H:20][O:10]C(=O)C(CC1=CC=CC=C1)[NH3+].C[C:21]1=[C:22](CCC2(C1(CCCC2=O)O)C)[OH:23].CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)O)N 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=CC(=O)NC)CC1=CC=CC=C1.[OH-:10]>>[H:20][OH:10].CNC(=O)C=C(CC1=CC=CC=C1)[O-:21] 10=20;20,21=21
[H:20][S:21]C.CC[O-:10]>>[H:20][O:10]CC.C[S-:21] 10=20;20,21=21
[H:20][N:21](CC)CC.[NH2-:10]>>[H:20][NH2:10].CC[N-:21]CC 10=20;20,21=21
C[N+:11](=[CH:10][S-])C>>C[N:11](C)[CH+:10][S-] 10,11=11
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)C(C)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)[C:24]1=[CH:23][CH:22]=[C:21](C=C1)[N+](=O)[O-] 10=20;20,21=21,22;22,23=23,24
[B-]1(OC(C(=O)O1)C(C(=O)O)OC(=O)C2=C(C=CC=C2OC(C)C)OC(C)C)(C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F)[O+:21]=[CH:20]C=CCC(C(C=CC4CC(=CCO4)C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C.CC(CC1CC=CC(O1)C=C)C[C:11](=[CH2:10])C[Si](C)(C)C>>[B-]1(OC(C(=O)O1)C(C(=O)O)OC(=O)C2=C(C=CC=C2OC(C)C)OC(C)C)(C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F)[O:21][CH:20]([CH2:10][C+:11](CC(C)CC4CC=CC(O4)C=C)C[Si](C)(C)C)C=CCC(C(C=CC5CC(=CCO5)C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C 10,11=10,20;20,21=21
[H:20][O:21][S+](=O)([O-])[O-].CC(C(C1=CC=CC=C1)O)C(=O)[O-:10].[Na+]>>[H:20][O:10]C(=O)C(C)C(C1=CC=CC=C1)O.[O-:21][S+](=O)([O-])[O-].[Na+] 10=20;20,21=21
C[C+]=C[Si:20](C)(C)C.C[O:10][Cu]>>C[C+]=C[Si-:20](C)(C)(C)[O+:10](C)[Cu] 10=20,
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C2=CC=CC=C21)C)Br.[Br-:10]>>[H:20][Br:10].C[C:24]1=[CH:23][CH:22]=[C:21](C2=CC=CC=C12)Br 10=20;20,21=21,22;22,23=23,24
[H:20][CH:21](C(=O)OCC)[C:22](=[O:23])OCC.[H:10][Na:11]>>CCO[C:22](=[CH:21]C(=O)OCC)[O-:23].[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
C1=CC2=C(C=C1)[I:10](=[OH+:11])(OC2=O)O>>C1=CC2=C(C=C1)[I+:10](OC2=O)(O)[OH:11] 10,11=11
C1=CC=C(C=C1)O[C+:20]=O.[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)OC(=O)Cl>>C1=CC=C(C=C1)O[C:20](=O)[CH:10]2C=C[C+:13]([CH:12]=[CH:11]2)OC(=O)Cl 10,11=10,20;12,13=11,12
C[CH:20](C)[Br:21].C1=CC=C(C=C1)C2=C(C(=CC=C2)C(=O)[O-])[O-:10].[Na+]>>C[CH:20](C)[O:10]C1=C(C=CC=C1C(=O)[O-])C2=CC=CC=C2.[Br-:21].[Na+] 10=20;20,21=21
CCC[C:11]#[C:10]CC(CC(C)C)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CCC[C+:11]=[C:10]1CC(C[N:21]([CH2:20]1)CC2=CC=CC=C2)CC(C)C 10,11=10,20;20,21=21
[H:20][CH2:21]P(=O)(C)C.[H:10][Na:11]>>CP(=O)(C)[CH2-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[Li:11][C:10]1=CC=CC=C1.C1=CC=C(C=C1)C(=O)CC[CH:20]=[O:21]>>[Li+:11].C1=CC=[C:10](C=C1)[CH:20](CCC(=O)C2=CC=CC=C2)[O-:21] 10,11=10,20;20,21=21
[H:20][OH2+:21].C[C:10](=[CH:11][O:12]C)C>>[H:20][C:10](C)(C)[CH:11]=[O+:12]C.[OH2:21] 10,11=10,20;20,21=21;12=11
CC1=CO[CH:10]=[CH:11]1.O[S+:20](=O)=O>>CC1=CO[CH:10]([CH+:11]1)[S:20](=O)(=O)O 10,11=10,20
[H:10][AlH3-:11].[Li][O+:21]=[C:20](CCC)N(C)CCC>>[H:10][C:20](CCC)(N(C)CCC)[O:21][Li].[AlH3:11] 10,11=10,20;20,21=21
CC(C)(C)[C:20](=[N:10]O[Si](C)(C)C)[O:21]S(=O)(=O)C(F)(F)F.CC[NH+](CC)CC.C(F)(F)(F)S(=O)(=O)[O-]>>CC(C)(C)[C:20]#[N+:10]O[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-:21].CC[NH+](CC)CC.C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH2+:21].CCOC(C)(C)[O:10]CC>>[H:20][O+:10](CC)C(C)(C)OCC.[OH2:21] 10=20;20,21=21
